* sg13g2-opamp -- ICMR bench saturation-edge replica probe (issue #21)
* Generated from sim/input-cmr/testbench/tb_cmr_mech.spice.tmpl by
* sim/input-cmr/run_cmr_sweep.sh -- do not edit a generated
* netlist-snapshots/*.spice file directly, edit this template and re-run
* the sweep.
*
* Probe: pair verification (fine-bound body bias)
* Point: corner=mos_tt temp_c=125 vdd_v=1.20
* Pair-replica body bias (its source node): 0.520391544 V
* Pair-replica drain held at 1.1203915439999999 V (source + 0.6, the gm/ID
* bench's own characterisation Vds, capped just under VDD)
* PDK: ihp-sg13g2 /Users/rwalters/share/pdk (see sim/pdk.json for the pinned release)
* OSDI models: /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi (built by sim/tools/build-osdi.sh)
*
* ------------------------------------------------------------------ method
* MEASURING the input stage's saturation requirements, not assuming them.
* This tree's OSDI/PSP103 build exposes no OP-info interface
* (sim/gm-id-characterization/README.md "Why finite-difference DC/AC,
* not model op-point queries"), so both bound-setting devices get their
* own replica probe in this same PDK, corner and temperature, at the
* DUT's own operating bias. The two devices need DIFFERENT probes because
* their physics differs (README.md "The saturation-edge probes" has the
* full rationale):
*
*   1. Tail device (M5, sg13_lv_nmos w=2.2u l=0.52u). Its L = 0.52 um
*      curve has a genuine saturation knee, so the knee rule applies:
*      sweep Id5(Vds) with Vds 0..VDD and read Vdsat5 at the first Vds
*      whose incremental slope dId/dVds has fallen to 10% of the curve's
*      maximum (triodeRon) slope -- the shipped SLOPE_FRAC value
*      run_cmr_sweep.sh applies. Bias fidelity: in the DUT, M5's gate is
*      the ibias node -- a diode-connected Mbias of the same size sinking
*      the external 10 uA -- so M5's Vgs is exactly the diode voltage
*      v(ibias), independent of Vcm. This probe reproduces that bias
*      EXACTLY with its own diode-connected replica (XMbiasr, same
*      geometry, same 10 uA): node rbx settles at the same Vgs the DUT's
*      ibias node shows (run_cmr_sweep.sh machine-checks the two and
*      fails the point on disagreement), and the tail replica XM5r
*      mirrors it with source=bulk=VSS exactly as in the DUT (Vsb=0).
*
*   2. Input-pair device (M1/M2, sg13_lv_nmos w=3.2u l=0.13u; one
*      geometry, one replica serves both). At L = 0.13 um the same knee
*      rule is undefined -- DIBL keeps a large slope component long past
*      the physical edge, so no slope fraction ever crosses -- so the
*      pair's requirement is read from the saturation CONDITION itself,
*      Vds >= Vgs - Vth, with Vth measured per this repo's own gm/ID
*      convention (sim/gm-id-characterization: constant-current
*      threshold, Id = 100 nA * W/L, log-Id linear interpolation).
*      Body effect included by construction: the replica's source node
*      is held at the DUT's own v(tail) at the probed point (so Vsb is
*      the real one, not a Vsb=0 table value), bulk at VSS, drain held
*      at source + 0.6 V (capped under VDD) per the gm/ID bench's
*      characterisation Vds, and the gate is swept so
*      run_cmr_sweep.sh can log-interpolate the Vth(CC) crossing.
*      Because Vth(Vsb) is body-bias dependent and the relevant Vsb is
*      the tail voltage AT the bound, the probe runs twice per grid
*      point (round 1 at the centre bias, round 2 at the bound round 1
*      predicts) -- README.md "The pair-saturation fixed point".
*
* No DUT netlist is included here: the probes are standalone replicas of
* two devices the FLAT DUT instantiates. The replica geometries below
* must be kept in lockstep with design/netlist/opamp_core.spice's
* XM1/XM2 (w=3.2u l=0.13u), XM5 (w=2.2u l=0.52u) and Mbias (w=2.2u
* l=0.52u); run_cmr_sweep.sh greps the frozen DUT snapshot and fails if
* they drift.

.lib "/Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib" mos_tt

.options temp=125 tnom=27

* Diode replica reproducing the DUT's ibias node voltage (Vgs5).
Irbias 0 rbx dc 10u
XMbiasr rbx rbx 0 0 sg13_lv_nmos w=2.2u l=0.52u ng=1 m=1
* Tail-device replica (M5): gate on the reproduced bias, source=bulk=VSS.
Vd5r p5 0 dc 0
XM5r p5 rbx 0 0 sg13_lv_nmos w=2.2u l=0.52u ng=1 m=1
* Pair-device replica (M1/M2 geometry) at the probed body bias.
Vps psn 0 dc 0.520391544
Vdp pdn 0 dc 1.1203915439999999
Vgpv gpv 0 dc 0
XMpairr pdn gpv psn 0 sg13_lv_nmos w=3.2u l=0.13u ng=1 m=1

.control
pre_osdi /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/psp103_nqs.osdi
pre_osdi /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/mosvar.osdi
pre_osdi /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/r3_cmc.osdi

op
echo "PROBE_VIBIAS_REPL $&v(rbx)"
echo "PROBE_VTAIL_REPL $&v(psn)"

* Id5(Vds) for the tail replica: Vds = v(p5), swept 0..VDD.
dc Vd5r 0 1.20 2.5e-3
let id5 = -i(Vd5r)
wrdata /Users/rwalters/GitHub/sg13g2-opamp/.loom/worktrees/issue-21/sim/input-cmr/corners/20260921-174405-65f5fb4/mos_tt_125C_1.20V_mech_m5.csv v(p5) id5

* Idpair(Vgs) for the pair replica at the probed Vsb: the gate node is
* swept (Vgs = v(gpv) - v(psn); v(psn) is a solved constant here), the
* drain is held at its fixed probe level. The driver log-interpolates
* the constant-current threshold crossing on this curve.
dc Vgpv 0.570391544 1.270391544 5e-3
let idpair = -i(Vdp)
wrdata /Users/rwalters/GitHub/sg13g2-opamp/.loom/worktrees/issue-21/sim/input-cmr/corners/20260921-174405-65f5fb4/mos_tt_125C_1.20V_mech_p_verify.csv v(gpv) idpair
.endc
.end
